US07253286B2
N6-Ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-((2R)-3-diethylamino-2-hydroxypropoxy)-6-quinolinecarboxamide
After adding (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate (66 mg, 0.290 mmol), potassium carbonate (32 mg, 0.231 mmol) and dimethylformamide (2 ml) to N6-ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide (80.0 mg, 0.193 mmol), the mixture was stirred at 60° C. for 7 hours. Diethylamine (1 ml) was then added, and the mixture was stirred at 60° C. overnight. The reaction solution was distributed between ethyl acetate-tetrahydrofuran (1:1) and water, and the organic layer was washed with water and saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=95:5), the fraction containing the target substance was concentrated, and crystals were precipitated from ethyl acetate-hexane (1:1), filtered out and blow-dried to obtain the title compound (51.7 mg, 0.095 mmol, 49.3%) as white crystals.

reactant | (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate | 0.290 mmol, 66 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC1 | C10H12O4S
reactant | potassium carbonate | 0.231 mmol, 32 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N6-ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide | 0.193 mmol, 80.0 mg | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1O)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C20H19ClN4O4
reactant | Diethylamine | 1 ml | C(C)NCC | C4H11N
solvent | water | O | H2O
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N6-Ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-((2R)-3-diethylamino-2-hydroxypropoxy)-6-quinolinecarboxamide | 0.095 mmol, 51.7 mg, 49.3% | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1OC[C@@H](CN(CC)CC)O)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C27H34ClN5O5
